US04885272
Preparation of the intermediate 5-amino-3-t-butyl-1-phenyl-pyrazole:
Pivaloyl acetonitrile (30.0 g; 0.24 mole) and ethanol (200 ml) were placed into a 500 ml round bottom flask. Phenylhydrazine (23.6 ml; 0.24 mole) was added with stirring followed by acetic acid (13.8 ml). The reaction was refluxed for 5 hours. Part of the ethanol was stripped off and the residue was poured into ice water. The product was filtered off and washed with water. The solid was dissolved in hot ethanol (100 ml), diluted with water, stirred, filtered, and washed with water. The yield of solid, m.p. 65°-7° C. was 46.3 g (90%).

reactant | Pivaloyl acetonitrile | 0.24 mole, 30.0 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | Phenylhydrazine | 0.24 mole, 23.6 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 13.8 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-amino-3-t-butyl-1-phenyl-pyrazole | NC1=CC(=NN1C1=CC=CC=C1)C(C)(C)C | C13H17N3
